US09227978B2
N-(1-(1-(2-(4,5-Dichloro-2-hydroxyphenylamino)acetyl)azetidin-3-yl)azetidin-3-yl)acrylamide
A mixture of 2-(4,5-dichloro-2-hydroxyphenylamino)acetic acid (120 mg, 0.51 mmol), EDCI.HCl (147 mg, 0.77 mmol), HOBt (83 mg, 0.61 mmol), Et3N (154 mg, 1.53 mmol) in DMF (20 mL) was stirred at room temperature for 5 min and then N-(1-(azetidin-3-yl)azetidin-3-yl)acrylamide hydrochloride (150 mg, 0.69 mmol) was added. The resulting mixture was stirred at room temperature for 15 h. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated NaHCO3 solution and brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (DCM/MeOH/NH3.H2O=100:10:1.5) to afford the desired product (6 mg, 3% yield). 1H NMR (400 MHz, DMSO-d6) δ: 10.19 (s, 1H), 8.59 (d, J=8.0 Hz, 1H), 6.79 (s, 1H), 6.55 (s, 1H), 6.20 (dd, J=10.0, 16.8 Hz, 1H), 6.09 (dd, J=2.0, 16.8 Hz, 1H), 5.62 (dd, J=2.0, 9.6 Hz, 1H), 5.20 (t, J=4.0 Hz, 1H), 4.40-4.35 (m, 1H), 4.19-4.15 (m, 1H), 3.96-3.88 (m, 2H), 3.73-3.69 (m, 3H), 3.53-3.45 (m, 3H), 3.00-2.96 (m, 2H). ESI-MS m/z: 399.2[M+H]+.

reactant | 2-(4,5-dichloro-2-hydroxyphenylamino)acetic acid | 0.51 mmol, 120 mg | ClC1=CC(=C(C=C1Cl)NCC(=O)O)O | C8H7Cl2NO3
reactant | EDCI.HCl | 0.77 mmol, 147 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.61 mmol, 83 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 1.53 mmol, 154 mg | CCN(CC)CC | C6H15N
reactant | N-(1-(azetidin-3-yl)azetidin-3-yl)acrylamide hydrochloride | 0.69 mmol, 150 mg | Cl.N1CC(C1)N1CC(C1)NC(C=C)=O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(1-(1-(2-(4,5-Dichloro-2-hydroxyphenylamino)acetyl)azetidin-3-yl)azetidin-3-yl)acrylamide | 6 mg, 3% yield | ClC1=CC(=C(C=C1Cl)NCC(=O)N1CC(C1)N1CC(C1)NC(C=C)=O)O | C17H20Cl2N4O3
